US03992400
In the manner given in Example 3, α-phenyl-o-toluidine is reacted with triethyl orthoformate, the resulting oil is heated with 2-methyl-2-(aminomethyl)-1,3-dioxolane, and the resulting product treated with titanium tetrachloride to give 5-methyl-1-(α-phenyl-o-tolyl)imidazole.

reactant | α-phenyl-o-toluidine | C1(=CC=CC=C1)CC=1C(N)=CC=CC1 | C13H13N
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
reactant | 2-methyl-2-(aminomethyl)-1,3-dioxolane | CC1(OCCO1)CN | C5H11NO2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 5-methyl-1-(α-phenyl-o-tolyl)imidazole | CC1=CN=CN1C1=C(C=CC=C1)CC1=CC=CC=C1 | C17H16N2
